US04017522
N-methyl-N-(2-p-toluoyloxyethyl)lauramide
N-methyl-N-(2-p-toluoyloxyetyl)lauramide was prepared by the procedure of example 1 from 26 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)lauramide and 15 gms. (0.1 mole) of p-toluoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)lauramide | 0.1 mole | CN(C(CCCCCCCCCCC)=O)CCO | C15H31NO2
reactant | p-toluoyl chloride | 0.1 mole | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
product | N-methyl-N-(2-p-toluoyloxyethyl)lauramide | CN(C(CCCCCCCCCCC)=O)CCOC(=O)C1=CC=C(C=C1)C | C23H37NO3
